US05663189
A solution of 2.0 g of 6-isothiocyanato-5,8-dimethyl-1,4-benzodioxane in 40 mL of toluene at 25° C. is added to a solution of 2.42 mL of ethylenediamine in 75 mL of toluene. After five minutes, the mixture is concentrated under reduced pressure to 20 mL at which point a solid precipitates from solution. This solid is collected and dried under vacuum to give 2.6 g of 6-[N'-(2-aminoethyl)thioureido]-5,8-dimethyl-1,4-benzodioxane as a white solid.

reactant | 6-isothiocyanato-5,8-dimethyl-1,4-benzodioxane | 2.0 g | N(=C=S)C1=C(C2=C(OCCO2)C(=C1)C)C | C11H11NO2S
reactant | ethylenediamine | 2.42 mL | C(CN)N | C2H8N2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 6-[N'-(2-aminoethyl)thioureido]-5,8-dimethyl-1,4-benzodioxane | 2.6 g | NCCNC(NC1=C(C2=C(OCCO2)C(=C1)C)C)=S | C13H19N3O2S
